US06248764B1
(2-Benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone (17.7 g, 45.5 mmol) and 1M boron tribromide/CH2Cl2 (34.8 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with a 2, 5 & 10% EtOAc/pet. ether step gradient gave 6.15 g (36%) of the title compound. 1H NMR (DMSO-d6) δ1.40-1.46 (m, 2H), 1.59-1.72 (m, 4H), 1.78 (s, 3H), 1.90-1.94 (m, 2H), 2.16 (s, 3H), 3.18 (quintet, 1H), 3.81 (s, 2H), 6.87 (d, 1H), 7.06 (d, 2H), 7.16-7.25 (m, 3H), 7.46 (dd, 1H), 7.55 (s, 1H), 10.33 (s, 1H).

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 45.5 mmol, 17.7 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C1CCCC1)C)C | C26H28O3
reactant | boron tribromide CH2Cl2 | 1M, 34.8 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 6.15 g, 36% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C=C1)O)C1CCCC1)C)C | C25H26O3
